US07737166B2
7-[(3S)-3-(Dimethylamino)pyrrolidin-1-yl]-5-methyl-2-[methyl(pyridin-2-yl)amino]-6-phenyl-1,3-benzoxazole-4-carbonitrile (#96)
(3S)-3-(Dimethylamino)pyrrolidine (63.2 μl, 0.498 mmol) and triethylamine (81.7 μl, 0.586 mmol) were added to a dimethyl sulfoxide (3 ml) solution of 7-fluoro-5-methyl-2-methylpyridin-2-ylamino-6-phenyl-1,3-benzoxazole-4-carbonitrile (I-189) (105 mg, 0.293 mmol), followed by stirring in an oil bath at 95° C. for 2 hours. The reaction liquid was concentrated under reduced pressure, the residue was dissolved in chloroform (50 ml), washed with saturated brine (50 ml). After drying over anhydrous sodium sulfate and concentration, the resulting residue was purified by preparative TLC (eluent, chloroform:methanol=20:1), and the obtained eluate was recrystallized from isopropanol to obtain the entitled compound (35.0 mg, 26.4%) as a colorless solid.

reactant | (3S)-3-(Dimethylamino)pyrrolidine | 0.498 mmol, 63.2 μl | CN([C@@H]1CNCC1)C | C6H14N2
reactant | triethylamine | 0.586 mmol, 81.7 μl | C(C)N(CC)CC | C6H15N
reactant | 7-fluoro-5-methyl-2-methylpyridin-2-ylamino-6-phenyl-1,3-benzoxazole-4-carbonitrile | FC=1C(=C(C(=C2NC(OC21)(C)NC2=NC=CC=C2)C#N)C)C2=CC=CC=C2 | C21H17FN4O
solvent | dimethyl sulfoxide | 3 ml | CS(=O)C | C2H6OS
product | 7-[(3S)-3-(Dimethylamino)pyrrolidin-1-yl]-5-methyl-2-[methyl(pyridin-2-yl)amino]-6-phenyl-1,3-benzoxazole-4-carbonitrile | 35.0 mg, 26.4% | CN([C@@H]1CN(CC1)C=1C(=C(C(=C2N=C(OC21)N(C2=NC=CC=C2)C)C#N)C)C2=CC=CC=C2)C | C27H28N6O
